US08629143B2
A suspension of 5-(trifluoromethyl)isobenzofuran-1,3-dione and 2-methylpropan-2-amine in acetic acid was heated at 100° C. overnight, concentrated, diluted with EtOAc, washed with saturated aqueous NaHCO3 and brine, dried (Na2SO4), filtered, and concentrated to give crude 2-tert-butyl-5-(trifluoromethyl)isoindoline-1,3-dione, which was used without purification.

reactant | 5-(trifluoromethyl)isobenzofuran-1,3-dione | FC(C=1C=C2C(OC(C2=CC1)=O)=O)(F)F | C9H3F3O3
reactant | 2-methylpropan-2-amine | CC(C)(C)N | C4H11N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-tert-butyl-5-(trifluoromethyl)isoindoline-1,3-dione | C(C)(C)(C)N1C(C2=CC=C(C=C2C1=O)C(F)(F)F)=O | C13H12F3NO2
